US06894061B2
N-[1-(2′,5′-Difluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamide
The title compound was prepared from 3-methoxybenzenesulfonyl chloride (326 mg, 1.6 mmol), 1-(-2′,5′-difluoro-biphenyl-2-yl)ethylamine (350 mg, 1.5 mmol), and triethylamine (418 μL, 3 mmol) according to the procedure and in the same manner as described in Example 112, step c. The product was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 30%-50% methyl tert-butyl ether in hexane (35 min), to afford the desired compound (570 mg, 94%) as a clear glass;

reactant | 3-methoxybenzenesulfonyl chloride | 1.6 mmol, 326 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1-(-2′,5′-difluoro-biphenyl-2-yl)ethylamine | 1.5 mmol, 350 mg | FC1=C(C=C(C=C1)F)C1=C(C=CC=C1)C(C)N | C14H13F2N
reactant | triethylamine | 3 mmol, 418 μL | C(C)N(CC)CC | C6H15N
product | N-[1-(2′,5′-Difluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamide | 570 mg, 94% | FC1=C(C=C(C=C1)F)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=CC(=CC=C1)OC | C21H19F2NO3S
